US03997535
c. 4(2-Formyloxyethyl)-3,4-dihydro-3-oxo-2-quinoxalinecarboxylic acid
Formic acid (3 ml., 98%) was added dropwise to acetic anhydride (6 ml) which was cooled below 5°. The mixture was heated at 50° for 15 minutes and cooled to below 5° and added slowly to a cold (5°-10°) solution of 3,4-dihydro-4(2-hydroxyethyl)-3-oxo-2-quinoxalinecarboxylic acid (3.2 g) in pyridine (40 ml). The solution was allowed to warm to room temperature, stirred for 6 hours and the pyridine was distilled off under reduced pressure. Hydrochloric acid (50 ml., 2N) was added to the residue and the solid was filtered off and dried, m.p. > 100°. Attempts to recrystallise this compound from dimethylformamide resulted in the loss of the formyl group.

reactant | Formic acid | 3 ml | C(=O)O | CH2O2
reactant | acetic anhydride | 6 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3,4-dihydro-4(2-hydroxyethyl)-3-oxo-2-quinoxalinecarboxylic acid | 3.2 g | OCCN1C(C(=NC2=CC=CC=C12)C(=O)O)=O | C11H10N2O4
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 4(2-Formyloxyethyl)-3,4-dihydro-3-oxo-2-quinoxalinecarboxylic acid | C(=O)OCCN1C(C(=NC2=CC=CC=C12)C(=O)O)=O | C12H10N2O5
